US08017605B2
Step B: 2-{[(tert-butoxycarbonyl)amino]methyl}-3H-imidazo[4,5-b]pyridine-6-carboxylic Acid
To a MeOH—H2O (5:1) 72 mL solution of methyl 2-{[(tert-butoxycarbonyl)amino]methyl}-3H-imidazo[4,5-b]pyridine-6-carboxylate (11.0 g, 37.6 mmol) was added lithium hydroxide monohydrate (7.5 g, 179 mmol). After stirring at 60° C. for 4 hr, the reaction mixture was cooled to 0 acidified by 1N HCl to pH 5, concentrated and purified by Prep-HPLC (77×250 mm, JT BAKER C-18 RP column, 10μ particle size, linear gradient, 5% MeCN/H2O+0.1% TFA to 35% MeCN/H2O+0.1% TFA@200 mL/min) to give the title compound (7.5 g, 71%). MS (ESI): m/z 293(M+H). 1H-NMR (400 MHz, d6-DMSO): δ 13.04 (br. s, 1H), 8.84 (s, 1H), 8.31 (s, 1H), 7.56 (s, 1H), 4.39 (s, 2H), 1.35 (s, 9H).

reactant | methyl 2-{[(tert-butoxycarbonyl)amino]methyl}-3H-imidazo[4,5-b]pyridine-6-carboxylate | 37.6 mmol, 11.0 g | C(C)(C)(C)OC(=O)NCC1=NC=2C(=NC=C(C2)C(=O)OC)N1 | C14H18N4O4
reactant | lithium hydroxide monohydrate | 179 mmol, 7.5 g | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH—H2O | 72 mL | CO.O
product | 2-{[(tert-butoxycarbonyl)amino]methyl}-3H-imidazo[4,5-b]pyridine-6-carboxylic Acid | 7.5 g, 71% | C(C)(C)(C)OC(=O)NCC1=NC=2C(=NC=C(C2)C(=O)O)N1 | C13H16N4O4
